US07238808B2
A mixture of 2H-pyrazol-3-ylamine (4.0 g, 48 mmol) and 1-(3,4-dichloro-phenyl)-4,4,4-trifluoro-butane-1,3-dione (11.4 g, 40 mmol) in acetic acid (80 mL) was heated at reflux for 4 h. The solution was poured into ice-cold 10% aqueous ammonia and the mixture was stirred at 0° C. for 0.5 h. The solid was isolated by filtration, triturated with EtOH (40 mL), and dried to give 5-(3,4-dichloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine as a pale-yellow solid. MS (ISP) 332.1 [(M+H)+]; mp 130–131° C.

reactant | 2H-pyrazol-3-ylamine | 48 mmol, 4.0 g | N=1NC(=CC1)N | C3H5N3
reactant | 1-(3,4-dichloro-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 40 mmol, 11.4 g | ClC=1C=C(C=CC1Cl)C(CC(C(F)(F)F)=O)=O | C10H5Cl2F3O2
solvent | acetic acid | 80 mL | C(C)(=O)O | C2H4O2
product | 5-(3,4-dichloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | ClC=1C=C(C=CC1Cl)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2 | C13H6Cl2F3N3
